US08871756B2
N-[(3-Aminooxetan-3-yl)methyl]-6-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine
The title compound was prepared in analogy to Example 57-1 in Scheme 23 by using 2,4,6-trichloroquinazoline, 3-(aminomethyl)oxetan-3-amine and 2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide. MS obsd. (ESI+) [(M+H)+] 460, 1H NMR (400 MHz, CD3OD) δ ppm 8.00-7.98 (t, J=2.0, 4.8 Hz, 2 H), 7.91-7.89 (d, J=7.2 Hz, 1 H), 7.64-7.60 (t, J=7.2 Hz, 1 H), 7.51-7.44 (m, 2 H), 7.40-7.38 (d, J=9.2 Hz, 1 H), 5.22 (s, 2 H), 4.65-4.62 (t, J=6.4, 5.6 Hz, 4 H), 4.56-4.54 (d, J=6.4 Hz, 2 H), 4.08 (s, 2 H), 3.54-3.51 (t, J=5.2, 4.8 Hz, 2 H).

reactant | 2,4,6-trichloroquinazoline | ClC1=NC2=CC=C(C=C2C(=N1)Cl)Cl | C8H3Cl3N2
reactant | 3-(aminomethyl)oxetan-3-amine | NCC1(COC1)N | C4H10N2O
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | S1(CCNCC2=C1C=CC=C2)(=O)=O | C9H11NO2S
product | N-[(3-Aminooxetan-3-yl)methyl]-6-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine | NC1(COC1)CNC1=NC(=NC2=CC=C(C=C12)Cl)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C21H22ClN5O3S
